US08217032B2
5-[4-(2-Azepan-1-yl-ethoxy)-phenoxy]-6-(3,4-difluoro-phenyl)-naphthalen-2-ol hydrochloride
Dissolve 1-(2-{4-[2-(3,4-difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-azepane (630 mg, 1.25 mmol) in dichloromethane (20 ml). Add 2M HCl in diethyl ether (1 mL, 2.0 mmol). Stir for 5 minutes. Concentrate the slurry and dry in vacuo. Dilute the residue in dichloromethane (20 ml) and blanket with nitrogen. Cool the solution to 0° C. with external ice bath. Add BBr3 (0.4 mL, 4.3 mmol). Stir the reaction at room temperature for 30 minutes and add the reaction mixture in saturated aqueous NaHCO3 (20 ml), ice (5 g) and methanol (5 mL). Dilute with dichloromethane (20 mL), separate the layers, wash the organic layer with brine (10 ml), dry with MgSO4, filter, and concentrate in vacuo. Chromatograph the residue on a SiO2 column eluting the material with a step gradient of methanol/dichloromethane (0 to 5%) to get the free base of the title compound. Dissolve the free base in diethyl ether (5.0 ml), ethyl acetate (6.0 ml) and methanol (1.0 ml) and add 2M HCl (1 mL, 2.0 mmol) in diethyl ether. Collect the precipitate on filter paper, rinse with diethyl ether and dry in vacuo (<2 mm of Hg) to give 310 mg (47%) of the title compound: mass spectrum (ion spray) m/z=490.3 (M−Cl).

reactant | 1-(2-{4-[2-(3,4-difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-azepane | 1.25 mmol, 630 mg | FC=1C=C(C=CC1F)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCCC2)C=C1 | C31H31F2NO3
reactant | HCl | 2M | Cl | ClH
reactant | diethyl ether | 2.0 mmol, 1 mL | C(C)OCC | C4H10O
reactant | BBr3 | 4.3 mmol, 0.4 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 5-[4-(2-Azepan-1-yl-ethoxy)-phenoxy]-6-(3,4-difluoro-phenyl)-naphthalen-2-ol hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(OC2=C3C=CC(=CC3=CC=C2C2=CC(=C(C=C2)F)F)O)C=C1 | InChI=1S/C30H29F2NO3.ClH/c31-28-14-6-22(20-29(28)32)26-12-5-21-19-23(34)7-13-27(21)30(26)36-25-10-8-24(9-11-25)35-18-17-33-15-3-1-2-4-16-33;/h5-14,19-20,34H,1-4,15-18H2;1H
